US20010003782A1
4,4-Dimethyl-24-methoxy-5α-chola-8,14-dien-3β-ol
3β-tert-Butyldimethylsilyloxy4,4-dimethyl-5α-chola-8,14-dien-24-ol (100 mg) is methylated with sodium hydride 60% (16 mg) and methyl iodine (0.125 ml) in 1 ml of DMF. The protecting tert-butyldimethylsilyl group is split of by treatment with HCl/ethanol. After aqueous work-up and crystallisation from methanol/water, the title compound (5 mg) is isolated.

reactant | 3β-tert-Butyldimethylsilyloxy4,4-dimethyl-5α-chola-8,14-dien-24-ol | 100 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCCO)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C32H56O2Si
reactant | sodium hydride | 16 mg | [H-].[Na+]
reactant | methyl iodine | 0.125 ml | CI | CH3I
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4,4-Dimethyl-24-methoxy-5α-chola-8,14-dien-3β-ol | 5 mg | CC1([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCCOC)C)[C@]4(CCC3[C@]2(CC[C@@H]1O)C)C)C | C27H44O2
